US08372823B2
1-Oxo-1-[5-(2-pyridyl)oxazol-2-yl]-3-(4-(phenylthio)phenyl)propane.
The title compound was prepared from 5-(2-pyridyl)oxazole and 3-(4-(phenylthio)phenyl)propanoic acid (S44) using General Procedure B. PTLC (SiO2, 50% EtOAc-hexanes) afforded 11i (50 mg, 0.13 mmol, 33%) as an orange solid: 1H NMR (CDCl3, 500 MHz) 8.68-8.66 (m, 1H), 7.88 (s, 1H), 7.88-7.85 (m, 1H), 7.82 (td, 1H, J=7.7, 1.8 Hz), 7.34-7.28 (m, 7H), 7.24-7.20 (m, 2H), 3.46 (t, 2H, J=7.4 Hz), 3.10 (t, 2H, J=7.4 Hz); 13C NMR (CDCl3, 125 MHz) 187.1, 157.1, 153.4, 150.1, 146.2, 139.7, 137.1, 136.3, 132.9, 131.8, 130.4, 129.4, 129.1, 126.9, 126.7, 124.2, 120.4, 40.4, 29.2; IR (film) νmax 3054, 2925, 2855, 1698, 1601, 1581, 1505, 1470, 1427, 1381, 1282, 1083, 990, 963, 913, 818, 784, 740, 691 cm−1; ESI-TOF m/z 387.1170 (C23H18N2O2S+H+ requires 387.1162).

reactant | 5-(2-pyridyl)oxazole | N1=C(C=CC=C1)C1=CN=CO1 | C8H6N2O
reactant | 3-(4-(phenylthio)phenyl)propanoic acid | C1(=CC=CC=C1)SC1=CC=C(C=C1)CCC(=O)O | C15H14O2S
product | 1-Oxo-1-[5-(2-pyridyl)oxazol-2-yl]-3-(4-(phenylthio)phenyl)propane | 0.13 mmol, 50 mg, 33% | O=C(CCC1=CC=C(C=C1)SC1=CC=CC=C1)C=1OC(=CN1)C1=NC=CC=C1 | C23H18N2O2S
